US05409943
(a) 2-Amino- 3-(2,4,6-trimethylbenzyloxy)pyridine
A mixture of 2-amino-3-hydroxy pyridine (29.6 g, 0.269 mol), dichloromethane (200 ml) and 40% aqueous sodium hydroxide solution (200 ml) was stirred for five minutes, then 2,4,6-trimethylbenzyl bromide (50 g, 0.296 mol) and Adogen 464 (5 ml) were added and stirring continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane. Drying and evaporation of the organic extracts, and trituration with ether gave the desired product. Yield 29.6 g (41%), m.p. 160°-166 ° C.

reactant | 2-amino-3-hydroxy pyridine | 0.269 mol, 29.6 g | NC1=NC=CC=C1O | C5H6N2O
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | 2,4,6-trimethylbenzyl bromide | 0.296 mol, 50 g | CC1=C(CBr)C(=CC(=C1)C)C | C10H13Br
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino- 3-(2,4,6-trimethylbenzyloxy)pyridine | NC1=NC=CC=C1OCC1=C(C=C(C=C1C)C)C | C15H18N2O
